US09428502B2
Compound 77.1. 1-Bromo-4-(prop-1-yn-1-yl)benzene
Into a 250-mL three neck round-bottom flask, which was maintained with an inert atmosphere of nitrogen, was placed 1-bromo-4-iodobenzene (2.00 g, 7.07 mmol), PdCl2(PPh3)2 (99.2 mg, 0.14 mmol), CuI (26.8 mg, 0.14 mmol), trimethyl(prop-1-yn-1-yl)silane (2.08 mL, 14.1 mmol) and tetrahydrofuran/TEA (9:1) (100 mL). Stirring was initiated and tetrabutylammonium fluoride (3.69 g, 14.1 mmol) was added rapidly to the mixture. The resulting mixture was stirred for 18 h at room temperature, then concentrated under reduced pressure. The residue diluted with water (100 mL) and extracted with ethyl acetate (3×50 mL). The organic extracts were dried (Na2SO4), filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography with petroleum ether as the eluent to yield the title compound as a light yellow oil (1.0 g, 73%).

reactant | 1-bromo-4-iodobenzene | 7.07 mmol, 2.00 g | BrC1=CC=C(C=C1)I | C6H4BrI
reactant | trimethyl(prop-1-yn-1-yl)silane | 14.1 mmol, 2.08 mL | C[Si](C#CC)(C)C | C6H12Si
reactant | tetrabutylammonium fluoride | 14.1 mmol, 3.69 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | PdCl2(PPh3)2 | 0.14 mmol, 99.2 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.14 mmol, 26.8 mg | [Cu]I
product | 1-Bromo-4-(prop-1-yn-1-yl)benzene | 1.0 g, 73% | BrC1=CC=C(C=C1)C#CC | C9H7Br
